US09422292B2
To a solution of 7-methoxy-3-methyl-4,5-dihydro-1H-pyrido[2,3-b][1,4]diazepine-2(3H)-thione (1.8 g, 8.06 mmol) in n-butanol (25 mL) was added acetohydrazide (5.97 g, 80.61 mmol). The mixture was stirred at 130° C. for 3 hours. The reaction mixture was concentrated in vacuo and washed with brine (20 mL), and then the mixture was filtered through a celite pad. The filtrate was extracted with acetic ester (20 mL×3). The combined organic phase was dried by anhydrous sodium sulphate, and then filtered. The filtrate was concentrated and purified by column chromatograph silica gel (elute: dichloro methane/Methanol: 80:1→35:1→20:1) to give 8-methoxy-1,4-dimethyl-5,6-dihydro-4H-pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepine (1.2 g, 61%) as a yellow solid.

reactant | 7-methoxy-3-methyl-4,5-dihydro-1H-pyrido[2,3-b][1,4]diazepine-2(3H)-thione | 8.06 mmol, 1.8 g | COC=1C=CC2=C(NCC(C(N2)=S)C)N1 | C10H13N3OS
reactant | acetohydrazide | 80.61 mmol, 5.97 g | C(C)(=O)NN | C2H6N2O
solvent | n-butanol | 25 mL | C(CCC)O | C4H10O
product | 8-methoxy-1,4-dimethyl-5,6-dihydro-4H-pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepine | 1.2 g, 61% | COC=1C=CC2=C(NCC(C=3N2C(=NN3)C)C)N1 | C12H15N5O
